US04859692
Methyl 4-[6-(2-cyclopentylacetamido)-3-hydroxyindazol-1-ylmethyl]-3-methoxybenzoate
A mixture of methyl 4-[3-benzyloxy-6-(2-cyclopentylacetamido)indazol-1-ylmethyl]-3-methoxybenzoate (BB) (5.0 g.), and palladium-on-carbon (5% w/w, 1.25 g.), in ethyl acetate (190 ml.), was hydrogenated at 1.1 bar for 7.5 hours. The catalyst was removed by filtration through diatomaceous earth, washing the filter cake with ethanol, the filtrate partially evaporated, and the residue allowed to crystallize to give the title compound (2.56 g., 62%), as a solid, m.p. 242°-245° C.

reactant | methyl 4-[3-benzyloxy-6-(2-cyclopentylacetamido)indazol-1-ylmethyl]-3-methoxybenzoate | 5.0 g | C(C1=CC=CC=C1)OC1=NN(C2=CC(=CC=C12)NC(CC1CCCC1)=O)CC1=C(C=C(C(=O)OC)C=C1)OC | C31H33N3O5
solvent | ethyl acetate | 190 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 1.25 g | [Pd] | Pd
product | Methyl 4-[6-(2-cyclopentylacetamido)-3-hydroxyindazol-1-ylmethyl]-3-methoxybenzoate | 2.56 g, 62% | C1(CCCC1)CC(=O)NC1=CC=C2C(=NN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)O | C24H27N3O5
